US06015826
As illustrated in step a of Scheme III, 2,6-difluorobenzonitrile is reacted with triethylamine, sodium sulfide hydrate, and hydrochloric acid in pyridine at room temperature to give 2,6-difluorobenzenethioamide.

reactant | 2,6-difluorobenzonitrile | FC1=C(C#N)C(=CC=C1)F | C7H3F2N
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | sodium sulfide hydrate | O.[S-2].[Na+].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 2,6-difluorobenzenethioamide | FC1=C(C(=CC=C1)F)C(N)=S | C7H5F2NS
